US07692005B2
AlCl3 (20.0 g, 150 mmol) was placed in a dry 200 mL round bottom flask and DMF (3.30 mL) was added dropwise at 0° C. During the addition of DMF care was taken to ensure that the reaction was allowed to vent to the outside as this addition caused an exotherm to occur. Additionally as the DMF was added a white suspension formed. This suspension was allowed to stir for 30 min at room temperature, after which 4-nitrobenzoyl chloride (2.984 g, 16 mmol) was added. The mixture was warmed to 50° C. and stirred for 15 min at that temperature. The 50° C. mixture then was treated with oxindole (2.051 g, 15 mmol). The resulting reaction mixture was heated to 90° C. and allowed to stir for 5 hours during which the reaction mixture turned from a yellowish suspension to a thick black oil. The reaction was cooled to room temperature. Ice was added directly to the flask followed by water, turning the black oil into a pale yellow/white precipitate. Concentrated HCl(aq) (3 mL) was added to the reaction and the contents were stirred at room temperature for 15 min. The precipitate was collected via vacuum filtration. The crude solid was purified by washing with sat. NaHCO3(aq) providing 5-(4-Nitro-benzoyl)-1,3-dihydro-indol-2-one as a gray solid (4.05 g, 14.4 mmol, 95%).

reactant | AlCl3 | 150 mmol, 20.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-nitrobenzoyl chloride | 16 mmol, 2.984 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | oxindole | 15 mmol, 2.051 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | HCl | 3 mL | Cl | ClH
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 3.30 mL | CN(C)C=O | C3H7NO
product | 5-(4-Nitro-benzoyl)-1,3-dihydro-indol-2-one | 14.4 mmol, 4.05 g, 95% | [N+](=O)([O-])C1=CC=C(C(=O)C=2C=C3CC(NC3=CC2)=O)C=C1 | C15H10N2O4
